US07589232B2
Step a) Formation of N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)hexanamide
The titled compound was prepared following the procedure M using 7-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one and hexanoyl chloride as all orange oil (69%). 1H NMR (CDCl3, 300 MHz) δ 7.92 (d, J=8.3 Hz, 1H), 7.41 (m, 4H), 7.14 (m, 4H), 6.78 (d, J=8.3 Hz, 1H), 6.59 (s, 1H), 4.89 (s, 2H), 2.60 (t, J=7.7 Hz, 2H), 2.14 (t, J=7.3 Hz, 2H), 1.71 (s, 6H), 1.66-1.51 (m, 4H), 1.43-1.12 (m, 8H), 0.91 (t, J=7.3 Hz, 3H). 0.84 (t, J=6.7 Hz, 3H). M+ (ESI): 538.2. HPLC, Rt: 6.34 min (Purity: 99.4%).

reactant | 7-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=CC3=C(OC(OC3=O)(C)C)C2)C=C1 | C29H29NO3
reactant | hexanoyl chloride | C(CCCCC)(=O)Cl | C6H11ClO
product | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)hexanamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCCCC)=O)C=2C=CC3=C(OC(OC3=O)(C)C)C2)C=C1 | C35H39NO4
